US04108904
A mixture of 0.05 gram-mole of m-phenoxybenzaldehyde and 0.05 gram-mole of 3,3-dimethylspiro[cyclopropane-1,1'-indene]-2-carboxylic acid chloride is added slowly, portionwise, to a solution of 0.075 gram-mole of potassium cyanide in 100 ml of water at 5° C. the mixture is stirred for 1.5 hours at 5° and then extracted with three 50--ml portions of ether. The extracts are washed with 10% hydrochloric acid solution, saturated sodium bicarbonate solution, and water and then dried over sodium sulfate. Removal of the ether under vacuum leaves α-cyano-m-phenoxybenzyl 3,3-dimethylspiro[cyclopropane-1,1'-indene]-2-carboxylate as a yellow-brown oil which is a useful insecticide as taught in U.S. Pat. No. 3,966,959 (1976).

reactant | m-phenoxybenzaldehyde | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | 3,3-dimethylspiro[cyclopropane-1,1'-indene]-2-carboxylic acid chloride | CC1(C(C12C=CC1=CC=CC=C21)C(=O)Cl)C | C14H13ClO
reactant | potassium cyanide | [C-]#N.[K+]
solvent | water | 100 ml | O | H2O
product | α-cyano-m-phenoxybenzyl 3,3-dimethylspiro[cyclopropane-1,1'-indene]-2-carboxylate | CC1(C(C12C=CC1=CC=CC=C21)C(=O)OC(C2=CC(=CC=C2)OC2=CC=CC=C2)C#N)C | C28H23NO3
